US05162318
In ethanol (100 ml) was dissolved sodium metal (0.70 g) followed by addition of a solution of N-(2-ethoxycarbonylaminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine (4.88 g) in ethanol (20 ml). The reaction mixture was refluxed for 16 hours and was concentrated under reduced pressure. The residue was diluted with chloroform and the insoluble matter was filtered off. The solvent was then distilled off and the residue was purified by silica gel chromatography (eluent:chloroform:methanol=10:1) to give 2.69 g of 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one.

reactant | sodium | 0.70 g | [Na] | Na
reactant | N-(2-ethoxycarbonylaminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine | 4.88 g | C(C)OC(=O)NC1=C(C=CC=C1)N(CCN(C)C)C(=O)OCC | C16H25N3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one | 2.69 g | CN(CCN1C(NC2=C1C=CC=C2)=O)C | C11H15N3O
